US07968746B2
6-Hydroxy-2,5,7,8-tetramethyl-N-(2-(pyridin-2-yl)ethyl)chroman-2-carboxamide (97.7 mg, 0.276 mmol) was dissolved in 3 mL AcCN and 2 mL CH2Cl2 and cooled to 0° C. prior to treatment with 332.5 mg CAN (0.606 mmol) in 2 mL H2O. The reaction was quenched by the addition of 5 mL EtOAc and 4 mL 1.0 M NaHCO3 followed by extraction of the aqueous layer 3×5 mL EtOAc. The combined organics were back extracted 3×3 mL saturated NaCl, dried over Na2SO4 and concentrated. Flash chromatography yielded 85.8 mg of 2-hydroxy-2-methyl-N-(2-(pyridin-2-yl)ethyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-Hydroxy-2,5,7,8-tetramethyl-N-(2-(pyridin-2-yl)ethyl)chroman-2-carboxamide | 0.276 mmol, 97.7 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC1=NC=CC=C1)C)C | C21H26N2O3
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
reactant | CAN | 0.606 mmol, 332.5 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | AcCN | 3 mL | C(=O)(C)C#N | C3H3NO
solvent | H2O | 2 mL | O | H2O
product | 2-hydroxy-2-methyl-N-(2-(pyridin-2-yl)ethyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 85.8 mg | OC(C(=O)NCCC1=NC=CC=C1)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C21H26N2O4
